US04816474
A mixture of 8.31 g of 5,6-dihydro-4H-thieno[2,3-b]- thiopyran-5-amine hydrochloride, 17.4 ml of ethyldiisopropylamine, 4.07 g of propionyl chloride in 80 ml of methylene chloride is kept for 30 minutes at room temperature. The reaction mixture is washed with 1N hydrochloric acid and then with saturated sodium bicarbonate solution, the organic layer is dried over magnesium sulfate and the solvent is removed in vacuo to yield N-propionyl-5,6-dihydro-4H-thieno[2,3-b]-thiopyran-5-amine. This is refluxed for 3 hours with 85 ml of 1M borane in tetrahydrofuran. Water and 3N hydrochloric acid are added and the mixture is heated briefly. Basification of the aqueous layer followed by extraction with ether affords an oil after removal of solvent. Addition of ethanolic hydrochloric acid affords N-propyl-5,6-dihydro-4H-thieno[2,3-b]thiopyran-5-amine hydrochloride, m.p. 107°-110°.

reactant | 5,6-dihydro-4H-thieno[2,3-b]- thiopyran-5-amine hydrochloride | 8.31 g | Cl.S1C=CC2=C1SCC(C2)N
reactant | ethyldiisopropylamine | 17.4 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | propionyl chloride | 4.07 g | C(CC)(=O)Cl | C3H5ClO
solvent | methylene chloride | 80 ml | C(Cl)Cl | CH2Cl2
product | N-propionyl-5,6-dihydro-4H-thieno[2,3-b]-thiopyran-5-amine | C(CC)(=O)NC1CC2=C(SC1)SC=C2 | C10H13NOS2
